US05066825
A mixture of 196.2 g of 3,4,5-trimethoxybenzaldehyde, 127.3 g of trimethoxymethane, 200 ml of methanol and 0.1 g of hydrochloric acid is refluxed for 3 hours. After cooling the reaction mixture, 0.2 g of a 24% sodium methoxide solution in methanol is added thereto and the mixture is evaporated under reduced pressure to remove solvent. 150 ml of tetrahydrofuran are added to the residue, and the mixture is evaporated under reduced pressure to remove solvent. 243 g of 3,4,5-trimethoxybenzaldehyde dimethyl acetal are thereby obtained as a pale yellow oil.

reactant | 3,4,5-trimethoxybenzaldehyde | 196.2 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | trimethoxymethane | 127.3 g | COC(OC)OC | C4H10O3
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
catalyst | hydrochloric acid | 0.1 g | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | 3,4,5-trimethoxybenzaldehyde dimethyl acetal | 243 g | COC(C1=CC(=C(C(=C1)OC)OC)OC)OC | C12H18O5
